US05175157
2-[2-(N-(3-(Pyrid-4-yl)-propyl)-piperid-2-yl)-ethyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride-dihydrate
Prepared from 6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 2-(2-chloroethyl)-N-[3-(pyrid-4-yl)-propyl]piperidine analogously to Example 2.

reactant | 6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | C1OC=2C=C3CCNC(C3=CC2O1)=O | C10H9NO3
reactant | 2-(2-chloroethyl)-N-[3-(pyrid-4-yl)-propyl]piperidine | ClCCC1N(CCCC1)CCCC1=CC=NC=C1 | C15H23ClN2
product | 2-[2-(N-(3-(Pyrid-4-yl)-propyl)-piperid-2-yl)-ethyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride-dihydrate | O.O.Cl.Cl.N1=CC=C(C=C1)CCCN1C(CCCC1)CCN1C(C2=CC3=C(C=C2CC1)OCO3)=O | InChI=1S/C25H31N3O3.2ClH.2H2O/c29-25-22-17-24-23(30-18-31-24)16-20(22)8-14-28(25)15-9-21-5-1-2-12-27(21)13-3-4-19-6-10-26-11-7-19;;;;/h6-7,10-11,16-17,21H,1-5,8-9,12-15,18H2;2*1H;2*1H2
